US08202858B2
2-Amino-N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzyl]-acetamide Hydrochloride
{[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzylcarbamoyl]-methyl}-carbamic acid tert-butyl ester from Example E113 (120 mg, 0.22 mmol) was reacted with 4N HCl/dioxan using an analogous procedure to that de-scribed for Example E4.2 to yield the title compound (95 mg, 83%).

reactant | {[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzylcarbamoyl]-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)Cl)F)=O)=O | C26H28ClFN6O4
reactant | HCl dioxan | 4N | Cl.O1CCOCC1
product | 2-Amino-N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzyl]-acetamide Hydrochloride | 95 mg, 83% | Cl.NCC(=O)NCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)Cl)F | InChI=1S/C21H20ClFN6O2.ClH/c1-28-20-14(10-26-28)11-29(18-5-4-15(22)7-17(18)27-20)21(31)12-2-3-13(16(23)6-12)9-25-19(30)8-24;/h2-7,10,27H,8-9,11,24H2,1H3,(H,25,30);1H
